2126-07-31 10:40:00 Physician Attending Progress Note
Chief Complaint: MS, neurogenic bladder, recurrent UTI p/w  fever and
   urosepsis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Evidence of bilateral pyelonpephritis on CT. Nephrosotomy tubes placed
   bilaterally. Briefly on levophed and weaned off.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-7-31**] 06:33 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2126-7-31**] 08:22 AM
   Fentanyl - [**2126-7-31**] 08:40 AM
   Other medications:
   Vancomycin iv, Calcium carbonate, Vitamin D, Colace, ritalin,
   lansoprazole po, paroxetine, neurontin, MVI, ferrous sulfate, lidocaine
   patch, heparin s/c.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: limited as patient is slow to respond.
   Flowsheet Data as of  [**2126-7-31**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 113 (84 - 145) bpm
   BP: 101/54(65) {70/36(47) - 149/78(92)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,033 mL
                                                                  1,857 mL
   PO:
             TF:
   IVF:
                                                                  2,033 mL
                                                                  1,857 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     80 mL
   Urine:
   80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,033 mL
                                                                  1,777 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: anxious appearing, chronically ill
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Gtube and bilateral nephrostomy tubes
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, contractures
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed, slow to respond
   Labs / Radiology
   8.8 g/dL
   236 K/uL
   138 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   35 mg/dL
   103 mEq/L
   131 mEq/L
   27.7 %
   23.5 K/uL
        [image002.jpg]
                             [**2126-7-31**]  03:01 AM
   WBC
   23.5
   Hct
   27.7
   Plt
   236
   Cr
   2.2
   Glucose
   138
   Other labs: PT / PTT / INR:15.9/37.2/1.4, Differential-Neuts:96.8 %,
   Lymph:1.5 %, Mono:1.4 %, Eos:0.2 %, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Obstructive and likely prerenal/ATN, will monitor post nephrostomy
   tubes, IVF to maintain U/O, will monitor for polyuria post-obstructive.
   Dr [**Last Name (STitle) **] [**Last Name (STitle) **] see in ICU later today/ tomorrow
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   Stage III, follow up wound consult.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   BP improved, off pressors, bolus as necessary. Would prefer neo over
   levo given SVT episode. On vanco/zosyn, follow up culture data. Prior
   growth of Pseudomonas and proteus
 Renal and bladder stones:
   Consult urology for managment of struvite stones. also ? urethrovaginal
   fistula.
 SVT: on levo and then in IR suite..currently in sinus tach and
   febrile. will check EKG now to confirm. Likley on account of
   hypovolemia/ sepsis
 Hyponatremia: likely hypovolemic, continue to monitor post IVF and
   r/a
Hyperkalemia: likely [**12-31**] to renal failure improved s/p IVF.
   ICU Care
   Nutrition:
   Comments: Restart tube feeds likely this afternoon, will reassess her
   status on afternoon rounds.
   Glycemic Control:  Comments: none needed
   Lines:
   PICC Line - [**2126-7-30**] 10:00 PM
   22 Gauge - [**2126-7-30**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI png
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2126-08-01 11:47:00 Physician Attending Progress Note
Chief Complaint: urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Good urine output S/P bilateral PCN
   Blood culture with GPC and GNR.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2126-8-1**] 08:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-1**] 05:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-1**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 35.9
C (96.6
   HR: 81 (70 - 104) bpm
   BP: 126/69(82) {87/51(59) - 133/79(90)} mmHg
   RR: 11 (9 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,677 mL
                                                                  2,485 mL
   PO:
             TF:
                                                                     37 mL
                                                                      4 mL
   IVF:
                                                                  3,641 mL
                                                                  2,301 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                  1,000 mL
   Urine:
                                                                  2,290 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,387 mL
                                                                  1,485 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic, neck contractures
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   242 K/uL
   80 mg/dL
   0.7 mg/dL
   19 mEq/L
   3.2 mEq/L
   18 mg/dL
   111 mEq/L
   140 mEq/L
   27.7 %
   17.0 K/uL
        [image002.jpg]
                             [**2126-7-31**]  03:01 AM
                             [**2126-7-31**]  05:30 PM
                             [**2126-8-1**]  04:09 AM
   WBC
   23.5
   17.0
   Hct
   27.7
   27.7
   Plt
   236
   242
   Cr
   2.2
   1.3
   0.7
   Glucose
   138
   80
   Other labs: PT / PTT / INR:15.9/37.2/1.4, Differential-Neuts:96.8 %,
   Lymph:1.5 %, Mono:1.4 %, Eos:0.2 %, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   Imaging: CXR with small bilateral pleural effusions
   Assessment and Plan
H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Resolved s/p bilateral nephrostomy tubes. Will replace polyuria 1:1
   with maintenance fluids. Adjust medication doses for recovering renal
   function. monitor electrolyte depletion
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   Seen by wound care service.
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Bolus 500cc now of NS, wean pressors as tolerated. Continue Zosyn,
   vancomycin. Await culture senses. Daily cultures needed. If positive
   despite [**Last Name (LF) **], [**First Name3 (LF) 116**] D/C PICC line and send catheter tip. Check echo ( r/o
   vegetations)
   ICU Care
   Nutrition:
   Comments: resume home regimen of tube feeds.
   speech and swallow consult.
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-30**] 10:00 PM
   22 Gauge - [**2126-7-30**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2126-08-02 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2126-8-1**] 03:30 PM
   - Had episode of SVT, rates 150-170's. Dropped BP during this episode.
   Unable to get EKG quick enough. Broke on her own without intervention.
   Pt was otherwise asymptomatic
   - Increased dilaudid to q3
   - Growing [**3-4**] blood cx bottles positive for GNRs. Urine growing
   pseudomonas.
   - Updated family and patient
   - Large BM o/n (disimpacted). Added standing senna to bowel regimen.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsErythromycin (Oral)
   (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Vancomycin - [**2126-8-1**] 09:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2126-8-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-1**] 09:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2126-8-2**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 65 (63 - 156) bpm
   BP: 106/61(72) {85/52(60) - 134/79(89)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  6,160 mL
                                                                    791 mL
   PO:
             TF:
                                                                     20 mL
                                                                     60 mL
   IVF:
                                                                  5,540 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  2,402 mL
                                                                    474 mL
   Urine:
                                                                  2,402 mL
                                                                    474 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,758 mL
                                                                    317 mL
   Respiratory support
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   231 K/uL
   8.1 g/dL
   88 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   10 mg/dL
   113 mEq/L
   140 mEq/L
   25.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-7-31**]  03:01 AM
                             [**2126-7-31**]  05:30 PM
                             [**2126-8-1**]  04:09 AM
                             [**2126-8-1**]  06:13 PM
                             [**2126-8-2**]  03:54 AM
   WBC
   23.5
   17.0
   7.6
   Hct
   27.7
   27.7
   25.3
   Plt
   [**Telephone/Fax (3) 8037**]
   Cr
   2.2
   1.3
   0.7
   0.5
   0.4
   Glucose
   138
   80
   83
   88
   Other labs: PT / PTT / INR:13.8/32.6/1.2, Differential-Neuts:87.1 %,
   Lymph:8.8 %, Mono:2.3 %, Eos:1.5 %, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   Microbiology: [**2126-8-1**]  Blood Culture, PENDING
   [**2126-8-1**]  Blood Culture, PENDING
   [**2126-7-31**]  Blood Culture GRAM NEGATIVE ROD(S)}; Aerobic Bottle Gram
   Stain-FINAL INPATIENT
   INPATIENT
   [**2126-7-31**]  URINE,KIDNEY FLUID CULTURE-PRELIMINARY {PSEUDOMONAS
   AERUGINOSA, YEAST}; ANAEROBIC CULTURE-PRELIMINARY;
   URINE-GRAM STAIN - UNSPUN-FINAL INPATIENT
   [**2126-7-31**]  URINE,KIDNEY FLUID CULTURE-PRELIMINARY {PSEUDOMONAS
   AERUGINOSA, YEAST}; ANAEROBIC CULTURE-PRELIMINARY; URINE-GRAM STAIN -
   UNSPUN-FINAL INPATIENT
   [**2126-7-31**]  URINE CULTURE-PRELIMINARY {GRAM NEGATIVE ROD(S)} INPATIENT
   [**2126-7-30**]  Blood Culture, Routine-PRELIMINARY {GRAM NEGATIVE ROD(S)};
   Aerobic Bottle Gram Stain
   [**2126-7-30**]  Blood Culture, Routine-PRELIMINARY {GRAM NEGATIVE ROD(S),
   GRAM POSITIVE COCCUS(COCCI)}; Aerobic Bottle Gram Stain-FINAL;
   Anaerobic Bottle Gram Stain-FINAL EMERGENCY [**Hospital1 **]
   Assessment and Plan
 .H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   60 yo f with hx of MS [**First Name (Titles) **] [**Last Name (Titles) 3214**] bladder with recent urosepsis,
   now admitted with fever and hypotension in likely setting of urinary
   tract infection.
   # Sepsis/Hypotension/Leukocytosis: Pt no longer requiring pressors
   since 5pm. Urine growing pseudomonas and gram stain with GPCs. [**3-4**]
   bottles positive for GNRs in blood. Also wound on coccyx with GNR. GPC
   in blood on admission.
   - IVF PRN for now
   - f/u on blood cx, urine cx, wound cx
   - Off neo for now
   - repeat blood cx
   - remove PICC line and culture tip, try to place EJ today
   - continue Vanco/Zosyn for now due to prior sensitivities
   - f/u echo
   # Acute renal failure: Resolved, now at BL Cre.
   - IVF as needed to prevent fluid [**Last Name (un) 8010**]
   - [**Hospital1 **] lytes
   - renally dose meds
   - flush nephrostomy tubes as needed
   # Sacral ulcer: stage III vs stage IV ulcer on sacrum. [**Month (only) 11**] be
   contributing to her current sepsis. Gram stain with GNRs
   - continue vanc and Zosyn for now
   - wound cx f/u
   - wound nurse following
   - air matress
   # Hyponatremia: Now resolved with IVF, was likely secondary to renal
   losses
   - monitor Na [**Hospital1 **]
   - monitor mental status
   # Multiple Sclerosis: progressive disease, advanced, limits pts
   mobility
   - monitor for change in sx
   - will c/s neuro if worsens
   # Depression/Anxiety: stable
   - continue home Paxil and Ritalin
   - ativan PRN home dose
   # Constipation: was disimpacted last  night
   - bowel meds, aggressive due to MS
   # Anemia: slightly below baseline, may be secondary to fluids and to
   her procedure
   - monitor hct
   - transfuse if <21
   .
   # Chronic pain:
   - on fentanyl patch
   - PRN tylenol
   - Diludid PRN
   # Hyperkalemia: likely secondary to renal failure, no EKG changes, now
   resolved with IVF
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-8-1**] 10:23 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-30**] 10:00 PM
   22 Gauge - [**2126-7-30**] 10:00 PM
   Prophylaxis:
   DVT: hep SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now, consider transfer to floor if line placement
   okay and BP stable

2126-08-02 10:17:00 Physician Attending Progress Note
Chief Complaint: Urosepsis, bilateral hydronephrosis, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   SVT to 160s, wtih hypotension, increase neo driop, BP then improved and
   she weaned off neosynephrine yesterday afternoon. Disimpacted.
   Increased dilaudid q3. Family updated.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Penicillins
   Unknown;
   Latex
   Unknown;
   Ciprofloxacin
   localized rash
   Last dose of Antibiotics:
   Vancomycin - [**2126-8-1**] 09:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2126-8-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2126-8-1**] 09:21 PM
   Other medications:
   lansoprazole, gabapentin, dilaudid, lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2126-8-2**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 71 (63 - 156) bpm
   BP: 107/70(79) {85/52(60) - 134/76(87)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  6,160 mL
                                                                  1,037 mL
   PO:
             TF:
                                                                     20 mL
                                                                    100 mL
   IVF:
                                                                  5,540 mL
                                                                    786 mL
   Blood products:
   Total out:
                                                                  2,402 mL
                                                                    694 mL
   Urine:
                                                                  2,402 mL
                                                                    694 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,758 mL
                                                                    343 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   8.1 g/dL
   231 K/uL
   88 mg/dL
   0.4 mg/dL
   20 mEq/L
   3.7 mEq/L
   10 mg/dL
   113 mEq/L
   140 mEq/L
   25.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2126-7-31**]  03:01 AM
                             [**2126-7-31**]  05:30 PM
                             [**2126-8-1**]  04:09 AM
                             [**2126-8-1**]  06:13 PM
                             [**2126-8-2**]  03:54 AM
   WBC
   23.5
   17.0
   7.6
   Hct
   27.7
   27.7
   25.3
   Plt
   [**Telephone/Fax (3) 8037**]
   Cr
   2.2
   1.3
   0.7
   0.5
   0.4
   Glucose
   138
   80
   83
   88
   Other labs: PT / PTT / INR:13.8/32.6/1.2, Differential-Neuts:87.1 %,
   Lymph:8.8 %, Mono:2.3 %, Eos:1.5 %, Ca++:7.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.3 mg/dL
   Imaging: Echo done report pending
   Microbiology: GPC in pairs and chains in urine, GPC in pairs and
   clusters blood. GNR in blood, pseudomonas in urine
   Assessment and Plan
 H/O RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   resolved s/p nephrostomy tubes and IVF. Stop maintenance IIVF and
   encourage po.
   Urology to follow as outpatient for renal stones.
 DECUBITUS ULCER (PRESENT AT ADMISSION)
   on specialty bed, continue wound care
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   off pressors, hemodynamics have improved. follow up cx data, continue
   vanc/zosyn. place PIV, and remove PICC line. Ideally give her line
   holiday before replacing of a PICC which she will need.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2126-8-1**] 10:23 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2126-7-30**] 10:00 PM
   22 Gauge - [**2126-7-30**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes